Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
neck and L.arm pain
 
Major Surgical or Invasive Procedure:
C5 to C7 anterior cervical discectomy and fusion with 
instrumentation ___
 
History of Present Illness:
___ y.o woman with h.o GERD, spinal stenosis/sciatica,  who 
presented for evlauation of lower neck pain with radiation down 
the entire L.arm/hand. Pt reports symptoms developed acutely 
while in ___ but denies any trauma. Pt reports pain has 
been severe ___ since onset. Pain is sharp and twisting with 
painful radiation down the arm and is worse with neck extension. 
She has been sleeping upright due to this. She presented to 
___ in ___ and was given tylenol with codeine. She then 
presented to her son's PCP and was given dilaudid, flexeril and 
gabapentin and a medrol dose back which end 1 week ago. She 
reports that her pain has continued and the medications have 
caused dizziness, nausea and vomiting. Reports pain x3 weeks 
without new changes. MRI done on ___ and cortisone injection 
on ___ by Dr. ___. Pt denies fever, chills, paresthesias, 
weakness, bowel or bladder incontinence or difficulty 
evacuating. She has chronic unchanged constipation. No headache. 
She also denies CP, sob, cough, ST, abdominal pain, diarrhea, 
dysuria, other joint pains.

In the ___, pt was given oxycodone, ketorolac, acetaminophen, 
diazepam and zofran. ___ d/w ___ who recommended outpt f/u.  
VSS in the ___
.
Other 10 pt ROS reviewed and otherwise negative
 
Past Medical History:
___ ESOPHAGUS 
COLONIC POLYPS 
GASTROESOPHAGEAL REFLUX 
HYPERCHOLESTEROLEMIA 
OVARIAN CYSTS 
ABDOMINAL PAIN 
SPINAL STENOSIS 
VENOUS MALFORMATION 

 
Social History:
___
Family History:
Other COLON CANCER 
  CORONARY ARTERY DISEASE 
  
Mother MYOCARDIAL INFARCTION 
  
Aunt ___ CANCER 
  
Other BREAST CANCER 
  UTERINE CANCER 

 
Physical Exam:
GEN: well appearing, NAD
vitals: VSS
HEENT: ncat eomi anicteric MMM
neck: supple, able to move in all directions but limited 
extension
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent, ___ strength b/l UE and 
___, sensation intact to LT, no tremor
psych: calm, cooperative
 
Pertinent Results:
MRI C ___ IMPRESSION:
1.  Enlarged left-sided disc protrusion at C6-7 since ___,
now with moderate to severe left C7 foraminal stenosis.  Mild
central stenosis at C6-7 with slight cord impingement, and
moderate to severe right C7 foraminal stenosis, stable.
2.  Moderate left C5 foraminal stenosis, worse since ___.
3.  Moderate central stenosis at C5-6 with moderate cord
deformity and severe bilateral C6 foraminal stenosis, stable.
4.  Mild to moderate bilateral C4 foraminal stenosis, without
change.

___ 08:25AM BLOOD WBC-4.1 RBC-3.85* Hgb-12.4 Hct-36.0 
MCV-94# MCH-32.2* MCHC-34.4 RDW-13.6 Plt ___
___ 08:25AM BLOOD Plt ___
___ 08:25AM BLOOD ___ PTT-31.9 ___
___ 08:25AM BLOOD Glucose-89 UreaN-8 Creat-0.6 Na-137 K-4.0 
Cl-102 HCO3-28 AnGap-11
___ 08:25AM BLOOD Calcium-9.6 Phos-4.6* Mg-2.___ y.o woman with neck and arm pain with recent MRI revealing 
cervical stenosis
.
#neck and arm pain due to cervical stenosis and radiculopathy-
She underwent surger on ___
.
#constipation-bowel regimen
 Required mag citrate and mineral oil.  Once home, she has a 
regimen that tends to work for her.  She should curtail use of 
oxycodone.

#GERD-ppi
.
#depression-continue SSRI
.
#FEn-regular diet with mechanical soft diet.

#code-full
#dispo-home.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benefiber (guar gum) (guar gum) unknown  oral daily 
2. Citalopram 20 mg PO DAILY 
3. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
4. Omeprazole 20 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Gabapentin 300 mg PO TID 
7. Cyclobenzaprine 10 mg PO HS:PRN spasm 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Cyclobenzaprine 10 mg PO HS:PRN spasm 
3. Gabapentin 300 mg PO TID 
4. Omeprazole 20 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Bisacodyl 10 mg PO/PR DAILY constipation 
RX *bisacodyl 5 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
7. Diazepam 5 mg PO Q6H:PRN spasms 
RX *diazepam 5 mg 1 tablet by mouth q6 hrs Disp #*80 Tablet 
Refills:*0
8. OxycoDONE Liquid ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg/5 mL ___ mls by mouth q4 hrs Refills:*0
9. Benefiber (guar gum) (guar gum) 1 dose ORAL DAILY 
10. Celecoxib 100 mg PO BID:PRN pain 
RX *celecoxib [Celebrex] 100 mg 1 capsule(s) by mouth twice a 
day Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical radiculitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Keep hard collar on at all times until follow up.
 
Followup Instructions:
___